US07582761B2
(b) 5-Trifluoromethyl-1,3-dihydrobenzoimidazol-2-one
A mixture of 4-trifluoromethyl-1,2-phenylenediamine (8.8 g, 50 mmol, Lancaster) and 1,1′-carbonyldiimidazole (9.0 g, 55 mmol, Aldrich) in THF (50 mL) was stirred at room temperature for 16 h. The solvent was removed in vacuo and the residue was purified by silica gel chromatography, eluting with EtOAc to give the title compound. MS (ESI, pos. ion) m/z: 203 (M+1).

reactant | 4-trifluoromethyl-1,2-phenylenediamine | 50 mmol, 8.8 g | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
reactant | 1,1′-carbonyldiimidazole | 55 mmol, 9.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Trifluoromethyl-1,3-dihydrobenzoimidazol-2-one | FC(C1=CC2=C(NC(N2)=O)C=C1)(F)F | C8H5F3N2O
